US06509345B2
Step 1: 4-(1-Ethoxyvinyl)-2-fluoro-3-pyridinecarbaldehyde
There are mixed in succession 8 g (31.9 mmol) of 2-fluoro4-iodo-3-pyridinecarbaldehyde (described in J.O.C, 1993, 58, pp. 7832), 12.7 g (35.96 mmol) of 1-ethoxyvinyltributyltin and 740 mg of tetrakis(triphenylphosphine)palladium (2% molar) in 280 ml of dioxane. The reaction mixture is heated at reflux until the starting material has disappeared completely. After returning to room temperature, a solution of potassium fluoride is added to the reaction mixture. Vigorous stirring is maintained for 10 minutes in order to cause precipitation of the tributyltin fluoride, which is filtered off. The filtrate is plunged into a sodium chloride solution. The aqueous phase is extracted 3 times with dichloromethane and then the organic phases are combined, dried over magnesium sulphate, concentrated and purified by chromatography over a silica column, using a dichloromethane/cyclohexane mixture (95/5) as eluant to yield the expected product.

reactant | 2-fluoro4-iodo-3-pyridinecarbaldehyde | 31.9 mmol, 8 g | FC1=NC=CC(=C1C=O)I | C6H3FINO
reactant | 1-ethoxyvinyltributyltin | 35.96 mmol, 12.7 g | C(C)OC(=C)[Sn](CCCC)(CCCC)CCCC
reactant | potassium fluoride | [F-].[K+]
solvent | dioxane | 280 ml | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 740 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(1-Ethoxyvinyl)-2-fluoro-3-pyridinecarbaldehyde | C(C)OC(=C)C1=C(C(=NC=C1)F)C=O | C10H10FNO2
